* indentify non-viable inductive systems (3xx case)

* (compile (concat "../../../w32/src/ngspice " buffer-file-name) t)
* (compile (concat "valgrind --track-origins=yes --leak-check=full --show-reachable=yes ../../../w32/src/ngspice " buffer-file-name) t)

.subckt ind3 a b c L11=10u L22=11u L33=10u K12=0 K13=0 K23=0
R1 a n1 1k
R2 b n2 1k
R4 c n3 1k
L1 n1 0 {L11}
L2 n2 0 {L22}
L3 n3 0 {L33}
K12 L1 L2 {K12}
K13 L1 L3 {K13}
K23 L2 L3 {K23}
.ends

Xgood1 a b c ind3
Xgood2 a b c ind3 K12=0.96 K23=0.99 K13=0.98
Xgood3 a b c ind3 K12=0.96 K23=0.99 K13=0.9898988607
Xbad4  a b c ind3 K12=0.96 K23=0.99 K13=0.9898988608
Xborder5  a b c ind3 K12=1 K23=1 K13=1
Xbad6  a b c ind3 K12=1.01 K23=1 K13=1

.control
op
remcirc
quit 0
.endc

.end
